US07732448B2
Into 3 ml of ethanol was resolved 0.3 g of 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine, 0.38 g of piperidine was added therein, and the mixture was stirred for 7 hours under reflux condition. The reaction mixture was cooled to near room temperature and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.37 g of 4-(2-butynyloxy)-5-fluoro-6-piperidinopyrimidine (hereinafter, referred to as Compound (2)).

reactant | 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine | 0.3 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | piperidine | 0.38 g | N1CCCCC1 | C5H11N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-(2-butynyloxy)-5-fluoro-6-piperidinopyrimidine | 0.37 g | C(C#CC)OC1=NC=NC(=C1F)N1CCCCC1 | C13H16FN3O
